US05192640
2,7-Dihydroxynaphthalene (BAYER) (250 g=1.56 mol) was dissolved in 875 ml of glacial acetic acid at 0°-90° C. and precipitated again by addition of 2.5 kg of crushed ice. A very finely disperse, light-beige, viscous suspension was formed and the temperature fell to -10° to -12° C. With good stirring and external cooling, 107.88 g (1.56 mol) of solid sodium nitrite were introduced in portions into this suspension, the mixture was stirred for another hour and a further 10.7 g (0.56 mol) of solid sodium nitrite were then added. Stirring was then continued for a further two hours at -8° to -5° C. The 2,7-dihydroxy-1-nitrosonaphthalene formed as dark-red crystals was filtered off with suction and well-pressed on the suction filter. The reaction product, still moist from the suction filter, was then stirred into 5 1 of water at 20°-25° C. for about one hour, again filtered off with suction, pressed down well and dried for 24 hours at 20°-25° C. in a circulating-air oven.

reactant | 2,7-Dihydroxynaphthalene | 1.56 mol, 250 g | OC1=CC2=CC(=CC=C2C=C1)O | C10H8O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | acetic acid | 875 ml | C(C)(=O)O | C2H4O2
product | 2,7-dihydroxy-1-nitrosonaphthalene | OC1=C(C2=CC(=CC=C2C=C1)O)N=O | C10H7NO3
